US04704462
A solution of lithium aluminum hydride (0.1 mol) in THF (100 ml) was added dropwise to a stirred suspension of 3,4-dimethoxycinnamic acid (41.6 g, 0.2 mol) in THF (150 ml) at room temperature. After the addition, the mixture was stirred for 2 hous, and the solution was evaporated in vacuo to a residue, which was partitioned between dichloromethane and aqueous sodium hydroxide. The organic layer was washed three times with water, dried, and evaporated to an oil. Crystallization from ethyl acetate-hexane gave 3,4-dimethoxycinnamyl alcohol (24 g, 62%), m.p. 76°-77° C.

reactant | lithium aluminum hydride | 0.1 mol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3,4-dimethoxycinnamic acid | 0.2 mol, 41.6 g | COC=1C=C(C=CC(=O)O)C=CC1OC | C11H12O4
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 3,4-dimethoxycinnamyl alcohol | 24 g, 62% | COC=1C=C(C=CCO)C=CC1OC | C11H14O3
